US07700655B2
(3) 5-Bromo-N-{4-[(1,1-dimethyl)ethyl]thiazol-2-yl}-2-hydroxybenzamide (Compound No. 186)
2-Acetoxy-5-bromo-N-{4-[(1,1-dimethyl)ethyl]thiazol-2-yl}benzamide (100.1 mg, 0.25 mmol) was dissolved in tetrahydrofuran (3 mL). 2N Sodium hydroxide (0.2 ml) was added, and the mixture was stirred at room temperature for 20 minutes. The reaction mixture was poured into diluted hydrochloric acid and extracted with ethyl acetate. After the organic layer was washed with brine, dried over anhydrous sodium sulfate, the residue obtained by evaporation under reduced pressure was crystallized (isopropyl ether/n-hexane) to give the title compound (70.1 mg, 78.9%) as a white powder.

reactant | 2-Acetoxy-5-bromo-N-{4-[(1,1-dimethyl)ethyl]thiazol-2-yl}benzamide | 0.25 mmol, 100.1 mg | C(C)(=O)OC1=C(C(=O)NC=2SC=C(N2)C(C)(C)C)C=C(C=C1)Br | C16H17BrN2O3S
reactant | Sodium hydroxide | 2N, 0.2 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 5-Bromo-N-{4-[(1,1-dimethyl)ethyl]thiazol-2-yl}-2-hydroxybenzamide | 70.1 mg, 78.9% | BrC=1C=CC(=C(C(=O)NC=2SC=C(N2)C(C)(C)C)C1)O | C14H15BrN2O2S
